US05696129
A solution of methyl-6-amino-2-methoxypyridine-3-carboxylate (0.4 g) in acetic acid (10 ml) was treated with a solution of Cl2 (0.19 g) in HOAc (4 ml) at room temperature for 3 h. The AcOH was removed by rotary evaporation and the residue treated with aqueous NaHCO3 (50 mL) and the product extracted into EtOAc (100 mL). Evaporation afforded methyl-6-amino-5-chloro-2-methoxypyridine-3-carboxylate (0.32 g).

reactant | methyl-6-amino-2-methoxypyridine-3-carboxylate | 0.4 g | COC(=O)C=1C(=NC(=CC1)N)OC | C8H10N2O3
reactant | Cl2 | 0.19 g | ClCl | Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | HOAc | 4 ml | CC(=O)O | C2H4O2
product | methyl-6-amino-5-chloro-2-methoxypyridine-3-carboxylate | 0.32 g | COC(=O)C=1C(=NC(=C(C1)Cl)N)OC | C8H9ClN2O3
